US05144041
Preparation of 2-(p-Chlorophenyl)-1-methyl-5-(trifluoromethyl)pyrrole-3-carbonitrile
A mixture of 2-(p-chlorophenyl)-N-(trifluoroacetyl)sarcosine (147.7 g, 0.50 mol) in acetonitrile is treated dropwise with α-chloroacrylonitrile (54.7 g, 0.62 mol) and acetic anhydride (153 g, 1.5 mol), stirred vigorously, treated dropwise with triethylamine (58.1 g, 0.57 mol) at 56°-60° C. over a 11/4 hour period, heated at 60° C. for 16 hours and concentrated in vacuo to give a residue. The residue is partitioned between ethyl acetate and water. The organic phase is concentrated in vacuo to afford an amber solid residue. Said solid is purified by flash chromatography (silica; ethyl acetate/hexanes) and recrystallized from methanol to give the title product as a pale yellow solid, mp 129.5°-130.5° C.

reactant | 2-(p-chlorophenyl)-N-(trifluoroacetyl)sarcosine | 0.50 mol, 147.7 g | ClC1=CC=C(C=C1)C(N(C)C(C(F)(F)F)=O)C(=O)O | C11H9ClF3NO3
reactant | α-chloroacrylonitrile | 0.62 mol, 54.7 g | ClC(C#N)=C | C3H2ClN
reactant | acetic anhydride | 1.5 mol, 153 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 0.57 mol, 58.1 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-(p-Chlorophenyl)-1-methyl-5-(trifluoromethyl)pyrrole-3-carbonitrile | ClC1=CC=C(C=C1)C=1N(C(=CC1C#N)C(F)(F)F)C | C13H8ClF3N2
